US04931452
Preparation of 3-Cyano-5-(trifluoromethyl)-2-pyridinol
Iodotrimethylsilane (6.2 ml, 0.044 mol) was added with stirring to a solution of 3.15 g (0.016 mol) of 3-cyano-2-methoxy-5-(trifluoromethyl)pyridine in 80 ml of chloroform under nitrogen and the mixture was allowed to stir at ambient temperature overnight. It was then concentrated by evaporation under reduced pressure and the residue partitioned between ether and 1N aqueous sodium hydroxide. The ethereal phase was extracted with more aqueous sodium hydroxide and the combined alkaline solutions were cooled and acidified with concentrated aqueous hydrochloric acid. The resulting mixture was extracted with ether several times and the combined ether extracts dried over sodium sulfate and concentrated by evaporation under reduced pressure. The residue was triturated with hot hexane, filtered, and dried to obtain 1.8 g (62 percent of theory) of the title compound as off-white crystals melting at 177-178.5° C. The proton nmr spectrum was consistent with the assigned structure.

reactant | Iodotrimethylsilane | 0.044 mol, 6.2 ml | I[Si](C)(C)C | C3H9ISi
reactant | 3-cyano-2-methoxy-5-(trifluoromethyl)pyridine | 0.016 mol, 3.15 g | C(#N)C=1C(=NC=C(C1)C(F)(F)F)OC | C8H5F3N2O
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Cyano-5-(trifluoromethyl)-2-pyridinol | C(#N)C=1C(=NC=C(C1)C(F)(F)F)O | C7H3F3N2O
